US08912190B2
A solution of N3-methyl-4′-(trifluoromethoxy)biphenyl-3,4-diamine (1 g) in methylene chloride (35 ml) was cooled in an ice bath, and triethylamine (1.5 ml) was added, followed by dropwise addition of oxalyl chloride (670 mg). After 1 hour the solvent was removed under reduced pressure, and the residue was crystallized from methanol, to provide 3-hydroxy-1-methyl-7-(4-(trifluoromethoxy)phenyl)quinoxalin-2(1H)-one (550 mg).

reactant | N3-methyl-4′-(trifluoromethoxy)biphenyl-3,4-diamine | 1 g | CNC=1C=C(C=CC1N)C1=CC=C(C=C1)OC(F)(F)F | C14H13F3N2O
reactant | triethylamine | 1.5 ml | C(C)N(CC)CC | C6H15N
reactant | oxalyl chloride | 670 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | methylene chloride | 35 ml | C(Cl)Cl | CH2Cl2
product | 3-hydroxy-1-methyl-7-(4-(trifluoromethoxy)phenyl)quinoxalin-2(1H)-one | 550 mg | OC=1C(N(C2=CC(=CC=C2N1)C1=CC=C(C=C1)OC(F)(F)F)C)=O | C16H11F3N2O3
